US05948916
In dimethoxyethane, were mixed and stirred 0.35 g of 3-(2-bromoethoxy)-4-(2,6-dichlorophenyl)-1,2,5-thiadiazol e, 0.3 g methylpropylamine at 50° C. for 6 hours. The reaction mixture was concentrated, and was purified by silica gel chromatography to obtain 0.2 g of 3-(2,6-dichlorophenyl)-4-[2-(N-methyl-N-propylamino)ethoxy]-1,2,5-thiadiazole.

reactant | 3-(2-bromoethoxy)-4-(2,6-dichlorophenyl)-1,2,5-thiadiazol e | 0.35 g | BrCCOC1=NSN=C1C1=C(C=CC=C1Cl)Cl | C10H7BrCl2N2OS
reactant | methylpropylamine | 0.3 g | CNCCC | C4H11N
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 3-(2,6-dichlorophenyl)-4-[2-(N-methyl-N-propylamino)ethoxy]-1,2,5-thiadiazole | 0.2 g | ClC1=C(C(=CC=C1)Cl)C1=NSN=C1OCCN(CCC)C | C14H17Cl2N3OS
